US05948785
Ethyl 4-methylbenzimidate hydrochloride was synthesized in the same manner as in Reference Example 2. That is, p-tolunitrile (25.6 g, 0.219 mol) was treated with hydrogen chloride in ethanol (250 mL) to give 42.3 g (97%) of the target compound as colorless crystals.

reactant | p-tolunitrile | 0.219 mol, 25.6 g | C1(=CC=C(C=C1)C#N)C | C8H7N
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | Ethyl 4-methylbenzimidate hydrochloride | Cl.CC1=CC=C(C(OCC)=N)C=C1 | InChI=1S/C10H13NO.ClH/c1-3-12-10(11)9-6-4-8(2)5-7-9;/h4-7,11H,3H2,1-2H3;1H
